US07291631B2
Using General Procedure B: Reaction of [3-(3,4-Dihydro-2H-quinolin-1-yl)-pyridin-2-ylmethyl]-(3,5-dimethyl-pyridin-2-ylmethyl)-amine in CH2Cl2 and 4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde (1.36 g, 6.28 mmol) with NaBH(OAc)3 gave 2-{4-[[3-(3,4-Dihydro-2H-quinolin-1-yl)-pyridin-2-ylmethyl]-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-isoindole-1,3-dione as a yellow fluffy solid. 1H NMR (CDCl3) δ 1.35-1.50 (m, 4H), 1.95-1.80 (m, 2H), 2.03 (s, 3H), 2.22 (s, 3H), 2.50-2.65 (m, 2H), 2.65-2.95 (m, 2H), 3.27-3.40 (m, 2H), 3.45-3.55 (m, 2H), 3.65-3.80 (m, 4H), 5.99 (d, 1H, J=7.7 Hz), 6.59 (t, 1H, J=7.7 Hz), 6.81 (t, 1H, J=1.3, 7.7 Hz), 6.95 (d, 1H, J=7.7 Hz), 7.07 (s, 1H), 7.21 (dd, 1H, J=4.6, 7.9 Hz), 7.50 (dd, 1H, J=1.0, 7.9 Hz), 7.65-7.75 (m, 2H), 7.75-7.85 (m, 2H), 8.9 (s, 1H), 8.53 (dd, 1H, J=1.0, 4.6 Hz). Deprotection with H2NNH2H2O following General Procedure E gave N1-[3-(3,4-Dihydro-2H-quinolin-1-yl)-pyridin-2-ylmethyl]-N1-(3,5-dimethyl-pyridin-2-ylmethyl)-butane-1,4-diamine as a free base.

reactant | [3-(3,4-Dihydro-2H-quinolin-1-yl)-pyridin-2-ylmethyl]-(3,5-dimethyl-pyridin-2-ylmethyl)-amine | N1(CCCC2=CC=CC=C12)C=1C(=NC=CC1)CNCC1=NC=C(C=C1C)C | C23H26N4
reactant | 4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde | 6.28 mmol, 1.36 g | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{4-[[3-(3,4-Dihydro-2H-quinolin-1-yl)-pyridin-2-ylmethyl]-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-isoindole-1,3-dione | N1(CCCC2=CC=CC=C12)C=1C(=NC=CC1)CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)CC1=NC=C(C=C1C)C | C35H37N5O2
